US08357711B2
6-Benzyl-1,4-oxazepan-6-ol hydrochloride
tert-Butyl 6-benzyl-6-hydroxy-1,4-oxazepane-4-carboxylate (Preparation 81, 37.15 g, 0.12 mol, 1 eq) was dissolved in dioxane (200 mL), and 4M hydrogen chloride/dioxane (60.4 mL, 0.24 mol, 2 eq) was added. The mixture was stirred for 24 h, evaporated, and coevaporated with ether. The formed precipitate was washed with ether and dried to title compound (27.3 g, 0.11 mol, 93%).

reactant | tert-Butyl 6-benzyl-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.12 mol, 37.15 g, 1 eq | C(C1=CC=CC=C1)C1(CN(CCOC1)C(=O)OC(C)(C)C)O | C17H25NO4
reactant | hydrogen chloride dioxane | 0.24 mol, 4M, 60.4 mL, 2 eq | Cl.O1CCOCC1
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 6-Benzyl-1,4-oxazepan-6-ol hydrochloride | 0.11 mol, 27.3 g, 93% | Cl.C(C1=CC=CC=C1)C1(CNCCOC1)O | InChI=1S/C12H17NO2.ClH/c14-12(9-13-6-7-15-10-12)8-11-4-2-1-3-5-11;/h1-5,13-14H,6-10H2;1H
